US06906072B1
Reference Example 24 4-methyl-3-phenylpentanoic Acid
Under a nitrogen atmosphere, sodium hydride (60%, 1.2 g) was added at 0° C. to a tetrahydrofuran solution (30 mL) of tert-butyldiethylphosphonoacetate (4.9 g). After 10 minutes, the temperature of the mixture was naturally returned to room temperature, and the mixture was stirred. After 1 hour, a tetrahydrofuran solution (10 mL) of isobutyrophenone (4.0 g) was added. After stirring for 13 hours, the organic layer was separated by adding water and ethyl acetate thereto. The resulting organic layer was washed with water and brine, and dried over anhydrous magnesium sulfate. After filtering off the drying agent, the mixture was evaporated. 5.48 g among the resulting crude product (6.1 g) was dissolved in methanol (30 mL), a catalytic amount of 10% palladium carbon (250 mg) was added, and the mixture was reacted under pressuring by hydrogen (3.9 kg/cm2). After 1.3 hours, the catalyst was filtered off, and then the filtrate was concentrated. The resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate system). The resulting product (3.0 g) was dissolved in acetone (50 mL) and 5N hydrochloric acid (20 mL), and the mixture was stirred for 3 hours under reflux conditions. The solution was evaporated, to give the title compound as a reddish yellow oil (1.96 g, 58%: 3 steps).

reactant | sodium hydride | 1.2 g | [H-].[Na+]
reactant | tert-butyldiethylphosphonoacetate | 4.9 g | C(C)(C)(C)OC(CP(=O)(OCC)OCC)=O | C10H21O5P
reactant | isobutyrophenone | 4.0 g | C(C(C)C)(=O)C1=CC=CC=C1 | C10H12O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 4-methyl-3-phenylpentanoic Acid | 1.96 g, 58% | CC(C(CC(=O)O)C1=CC=CC=C1)C | C12H16O2
